US06114358
a) 5-Cyanofuran-2-carbaldehyde
165 ml (264 mmol) of a 1.6 molar solution of n-butyllithium in n-hexane were added over the course of 20 min to a solution of 26.7 g (264 mmol) of diisopropylamine in 600 ml of tetrahydrofuran cooled to -78° C. The solution was allowed to reach -20° C., again cooled to -75° C. and, at this temperature, a solution of 22.3 g (240 mmol) of 2-cyanofuran in 100 ml of tetrahydrofuran were slowly added dropwise. After stirring for 30 min, 93 ml of dimethylformamide were slowly added dropwise, and the mixture was stirred for a further 30 min. For workup, a solution of 40 g of citric acid in 200 ml of water was added at -70° C. After concentration in a rotary evaporator, 600 ml of saturated sodium chloride solution were added, and the mixture was extracted three times with 200 ml of diethyl ether each time. The combined organic extracts were dried over magnesium sulfate. The desiccant was filtered off and then the solvent was distilled off under water pump vacuum and the residue was purified by column chromatography (mobile phase dichloromethane). The eluate was concentrated and the residue was subjected to steam distillation (boiling range of the azeotrope with water: 60-65° C. at p=0.1 mm Hg). Extraction of the distillate with diethyl ether, drying of the organic phase and concentration of the solution resulted in 10.6 g (88 mmol, 36%) of the title compound. 1H-NMR (270 MHz, d6 -DMSO): δ=7.7 (d, 1H), 7.8 (d, 1H), 9.75 (s, 1H).

reactant | n-butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 264 mmol, 26.7 g | C(C)(C)NC(C)C | C6H15N
reactant | 2-cyanofuran | 240 mmol, 22.3 g | C(#N)C=1OC=CC1 | C5H3NO
reactant | citric acid | 40 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
solvent | dimethylformamide | 93 ml | CN(C=O)C | C3H7NO
product | 5-Cyanofuran-2-carbaldehyde | 88 mmol, 10.6 g, 36% | C(#N)C1=CC=C(O1)C=O | C6H3NO2
